US04820734
A solution of 9.5 g of (-)-(S)-[(R)-4-(benzyloxy)-α-(nitromethyl)benzyl]cyclohexanone in 150 ml of dry tetrahydrofuran is added dropwise at room temperature while stirring to a suspension of 2.5 g (67.2 mmol) of lithium aluminium hydride in 80 ml of dry tetrahydrofuran under argon and the mixture is stirred at room temperature for 16 hours. The reaction mixture is treated with 20 ml of tetrahydrofuran/water (1:1), the separated precipitate is filtered off under suction while washing with methylene chloride and the filtrate is evaporated. The residue is dissolved in ether, the ethereal phase is extracted with 1N hydrochloric acid, the acidic phase is made alkaline with 3N sodium hydroxide solution and extracted with methylene chloride. The organic phase is washed with water, dried over magnesium sulphate and evaporated. There is obtained (+)-(1S)-cis-2-[(R)-α-(aminomethyl)-4-(benzyloxy)benzyl]cyclohexanol in the form of a colourless oil; [α]D20 =+14.7° (c=0.7, chloroform).

reactant | (-)-(S)-[(R)-4-(benzyloxy)-α-(nitromethyl)benzyl]cyclohexanone | 9.5 g | C(C1=CC=CC=C1)OC1=CC=C([C@H](C[N+](=O)[O-])[C@H]2C(CCCC2)=O)C=C1 | C21H23NO4
reactant | lithium aluminium hydride | 67.2 mmol, 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran water | 20 ml | O1CCCC1.O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (+)-(1S)-cis-2-[(R)-α-(aminomethyl)-4-(benzyloxy)benzyl]cyclohexanol | NC[C@@H](C1=CC=C(C=C1)OCC1=CC=CC=C1)[C@H]1[C@H](CCCC1)O | C21H27NO2
